US08183380B2
1-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-3-[1-(2,2,2-trifluoro-ethyl)-piperidin-4-yl]-urea
The title compound was prepared in accordance with the general method 4 described in example 16 from bis(trichloromethyl) carbonate, 1-(2,2,2-trifluoro-ethyl)-piperidin-4-ylamine hydrochloride (CAS no: 180869-49-2) and (R)—N2-indan-1-yl-quinoline-2,6-diamine; MS: m/e=484.8 (M+H+).

reactant | bis(trichloromethyl) carbonate | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | 1-(2,2,2-trifluoro-ethyl)-piperidin-4-ylamine hydrochloride | Cl.FC(CN1CCC(CC1)N)(F)F
reactant | (R)—N2-indan-1-yl-quinoline-2,6-diamine | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
product | 1-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-3-[1-(2,2,2-trifluoro-ethyl)-piperidin-4-yl]-urea | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(=O)NC1CCN(CC1)CC(F)(F)F | C26H28F3N5O
